Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
tSAH s/p fall 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ male with a PMH significant
for CVA on Aspirin and rivaroxaban and vascular dementia who
presents to the ___ on ___ with a mild TBI.
Patient initially presented to an OSH after a mechanical fall
while transferring to a wheelchair at his nursing home. There 
was
a positive loss of consciousness per the nursing home staff.
Patient was found to have scattered traumatic SAH on head CT and
was transferred to ___. Patient denies headache,
weakness, numbness, tingling, nausea, and vomiting. Patient
states that he is slightly dizzy. Patient reports that he had a
seizure "a long time ago."
 
Past Medical History:
HTN, CAD, ischemic cardiomyopathy, CVA, anemia, vascular
dementia, major depression, generalized anxiety disorder, per
outside records.

Pacemaker
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
================
ON ADMISSION:
================
GCS upon Neurosurgery Evaluation: 14

Airway: [ ]Intubated   [X]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [X]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [X]4 Confused, disoriented (Baseline dementia)
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [X]6 Obeys commands

Exam:

Gen: WD/WN, comfortable, NAD.
HEENT: Occipital hematoma.
Neck: Supple.
Extrem: Warm and well perfused.

Neuro:

Mental Status: Awake, alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and month but not year.

Language: Speech is fluent with good comprehension. 

Cranial Nerves:
I: Not tested.
II: Pupils equally round and reactive to light, 3 to
2 mm bilaterally.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Not tested.
XI: Not tested.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Slight baseline right-sided weakness in upper and lower
extremities s/t prior CVA. Strength full power ___ throughout in
left upper and lower extremities. No pronator drift, however
decreased ROM in right shoulder.

Sensation: Intact to light touch.

Handedness: Right.

=================
ON DISCHARGE:
=================

Dementia at baseline. A+O to self, hospital, month only. PERRL. 
EOMs intact. ___. TML. No drift however limited ROM in R 
shoulder. LUE/LLL ___. RUE/RLE ___ weakness ___ prior stroke. 

 
Pertinent Results:
___ 05:20AM BLOOD WBC-6.9 RBC-4.18* Hgb-12.6* Hct-37.5* 
MCV-90 MCH-30.1 MCHC-33.6 RDW-12.7 RDWSD-41.0 Plt ___
___ 02:20PM BLOOD WBC-13.7* RBC-4.78 Hgb-14.1 Hct-42.6 
MCV-89 MCH-29.5 MCHC-33.1 RDW-12.4 RDWSD-40.3 Plt ___

___ 05:20AM BLOOD ___ PTT-29.9 ___

___ 05:20AM BLOOD Glucose-89 UreaN-31* Creat-1.2 Na-138 
K-3.7 Cl-97 HCO3-27 AnGap-14

___ 02:20PM BLOOD Glucose-98 UreaN-37* Creat-1.4* Na-137 
K-4.6 Cl-94* HCO3-27 AnGap-16

___ 05:20AM BLOOD Calcium-9.0 Phos-3.3 Mg-2.2

___ Non-contrast head CT:
IMPRESSION:   
1. Unchanged bifrontal and left occipital subarachnoid 
hemorrhage and a right parieto-occipital subgaleal hematoma.  No 
intraventricular extension. 
2. Left frontal and parietal encephalomalacia is consistent with 
prior 
infarction. 

___:
IMPRESSION:    
Lungs are clear left-sided pacemaker leads project to the right 
atrium and 
both ventricles.  There is no pleural effusion.  No pneumothorax 
is seen.  
There is mild cardiomegaly 

  

 
Brief Hospital Course:
Mr. ___ was transferred from OSH with tSAH on CT s/p fall 
with headstike and LOC while being transferred to his wheelchair 
in his nursing home. 

#tSAH:
The patient appeared to be at his neurologic baseline with known 
history of dementia and right sided weakness secondary to 
history of L CVA. Repeat NCHCT showed stable tSAH. He remained 
neurologically stable on exam. 

#CV: 
Patient's xarelto and Aspirin were held in the setting of an 
acute intracranial hemorrhage. He is to hold his anticoagulation 
until follow-up with repeat NCHCT in clinic.  

#Elevated BUN/Cr:
His elevated BUN and Cr on admission were 37 and 1.6 
respectively. Patient was given IV fluids while he remained NPO 
prophylactically for potential surgical needs. BUN and Cr 
trended down on repeat labs. Medicine was consulted and 
recommended decreasing Lasix to 20mg daily and to monitor for 
fluid overload. If the patient develops fluid overload they 
recommend to increase the Lasix by 20mg daily. Patient should 
have his Cr rechecked at his nursing home within 3 days. 

 
Medications on Admission:
- Acetaminophen 1,000 mg by mouth twice daily as needed for pain
- Aspirin 81 mg by mouth daily
- Bisacodyl 10 mg per rectum daily as needed if milk of magnesia
is ineffective
- Carvedilol 6.25 mg by mouth twice daily
- Docusate sodium 200 mg by mouth daily at bedtime
- Ergocalciferol 50,000 units by mouth every 7 days on ___
- Fleet enema per rectum daily as needed if bisacodyl is
ineffective
- Furosemide 40 mg by mouth daily in morning
- Furosemide 20 mg by mouth daily in evening
- Milk of magnesia 30 mL by mouth daily as needed if no bowel
movement in 3 days
- Mylanta 30 mL by mouth every 4 hours as needed 
- Polyethylene glycol 3350 17 g by mouth twice daily
- Rivaroxaban 20 mg by mouth daily at 8pm
- Sennosides 8.6 mg by mouth daily at bedtime
- Sertraline 50 mg by mouth daily
- Spironolactone 25 mg by mouth daily
- Tramadol 50 mg by mouth twice daily
 
Discharge Medications:
1.  Furosemide 20 mg PO DAILY 
if develops fluid overload may increase Lasix 20mg per day. 
Monitor Cr  
2.  Acetaminophen 325-650 mg PO Q8H:PRN Pain - Mild  
3.  Aluminum-Magnesium Hydrox.-Simethicone 30 mL PO Q4H:PRN 
indigestion  
4.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
5.  Carvedilol 6.25 mg PO/NG BID  
6.  Docusate Sodium 100 mg PO BID  
7.  Fleet Enema (Mineral Oil) ___AILY:PRN constipation  

8.  Milk of Magnesia ___ mL PO Q6H:PRN constipation  
9.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
10.  Senna 8.6 mg PO HS  
11.  Sertraline 50 mg PO DAILY  
12.  Spironolactone 25 mg PO DAILY  
13.  TraMADol 50 mg PO BID  
14.  Vitamin D ___ UNIT PO 1X/WEEK (SA) on ___  
15. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until follow-up with neurosurgery 
16. HELD- Rivaroxaban 20 mg PO DAILY 8PM   This medication was 
held. Do not restart Rivaroxaban until follow-up with 
neurosurgery 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Traumatic SAH 
Elevated BUN and Cr

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Discharge Instructions
Brain Hemorrhage without Surgery

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•Please do NOT take any blood thinning medication (Xarelto, 
Aspirin, Ibuprofen, Plavix, Coumadin) until cleared by the 
neurosurgeon. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
•Headache is one of the most common symptom after a brain 
bleed. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___